US05202407
A. Preparation of 3,5-dinitrobenzyltri-p-tolyl phosphonium chloride catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-p-tolyl phosphine and 25 gms of toluene. The slurry is heated to 35° C. then 4.3 gm (0.0199 mole) of 3,5-dinitrobenzyl chloride is added. This reaction mass is heated to 60° C. and maintained at that temperature for 3 hours, then heated to 80° C. and maintained at that temperature for 2 hours, then cooled to 60° C. and maintained at that temperature for 16 hours, then cooed to 26° C. and filtered. The salt is washed with 3 gms of toluene and 3 gms of ethyl acetate and then vacuum dried. There is obtained 3.5 gms of catalyst which has a melting point of >250° C. and a chemical shift of 23.8 ppm (phosphoric acid reference).

reactant | tri-p-tolyl phosphine | 0.0164 mole, 5 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | 3,5-dinitrobenzyl chloride | 0.0199 mole, 4.3 gm | [N+](=O)([O-])C=1C=C(CCl)C=C(C1)[N+](=O)[O-] | C7H5ClN2O4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | toluene | 25 gms | C1(=CC=CC=C1)C | C7H8
product | 3,5-dinitrobenzyltri-p-tolyl phosphonium chloride | [Cl-].[N+](=O)([O-])C=1C=C(C[P+](C2=CC=C(C=C2)C)(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C28H26N2O4P.ClH/c1-20-4-10-26(11-5-20)35(27-12-6-21(2)7-13-27,28-14-8-22(3)9-15-28)19-23-16-24(29(31)32)18-25(17-23)30(33)34;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
